data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1CC[OH:10])N(=O)=O.CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]CCC4=CC=C(C=C4)N(=O)=O.CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-] 10=20,
[H:20][NH+:21](C1=CC=CC=C1)C2(CCCCC2)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1CCC(CC1)([NH:21]C2=CC=CC=C2)O 10=20;20,21=21
[H:20][OH2+:21].CC(CC(=O)C1=CC(=CC=C1)Br)(C2=CC(=CC=C2)Br)[O-:10]>>[H:20][O:10]C(C)(CC(=O)C1=CC(=CC=C1)Br)C2=CC(=CC=C2)Br.[OH2:21] 10=20;20,21=21
COCC1C([CH:20]2C(C1O)[I+:21]2)CC(=[O:10])O[Na].[I-]>>COCC1C2CC(=[O+:10][CH:20]2C(C1O)[I:21])O[Na].[I-] 10=20;20,21=21
[H:20][O+:21]1C(C(C(C(C1O)O)O)O)CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C(C1C(C(C(C([O:21]1)O)O)O)O)O 10=20;20,21=21
[H:20][CH2:21]P(=O)(C)C.CS(=O)[CH2:10][Na:11]>>[H:20][CH2:10]S(=O)C.CP(=O)(C)[CH2-:21].[Na+:11] 10,11=10,20;20,21=21
[H:20][C:21](C1=CC(=C(C(=C1)OC)OC)OC)(C(C2=CC(=C(C=C2)OC)O)OC(=O)C)[C:22](=[O:23])OC(=O)C.CC[N:10](CC)CC.CC[NH+](CC)CC.CC(=O)[O-]>>[H:20][N+:10](CC)(CC)CC.CC(=O)OC(C1=CC(=C(C=C1)OC)O)[C:21](=[C:22]([O-:23])OC(=O)C)C2=CC(=C(C(=C2)OC)OC)OC.CC[NH+](CC)CC.CC(=O)[O-] 10=20;22,23=23;20,21=21,22
O=[S+:21](=O)[Cl:20].[Cl-:10]>>O=[S:21]=O.[Cl:10][Cl:20] 10=20;20,21=21
CC[Si](CC)(CC)OC1(CCCC1C[CH:20]=[O+:21]C)[C:11]2=[CH:10]C3CCCC3C2.CO[Sn-](Cl)(Cl)(Cl)Cl>>CC[Si](CC)(CC)OC12CCCC1C[CH:20]([CH:10]3[C+:11]2CC4C3CCC4)[O:21]C.CO[Sn-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
CCCCC1CC(C[CH:10](CCC(C(C1)CCC2CCCCO2)CC)[O:11]S(=O)(=O)C3=CC=C(C=C3)C)CNC(=O)C.CC(=O)O>>CCCCC1CC(C[CH+:10]CCC(C(C1)CCC2CCCCO2)CC)CNC(=O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:11].CC(=O)O 10,11=11
CC1[CH:10]=[CH:11]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CC1C2C[CH2:20][CH:10]1[CH+:11]C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[C:20](=[O:21])OC(=O)C=C.[OH-:10]>>C[C:20]([OH:10])([O-:21])OC(=O)C=C 10=20;20,21=21
[H:20][OH+:21]C1C2C3C4C1C4(C2(CCCC3(C)C)C)C.[OH2:10]>>[H:20][OH2+:10].CC1(CCCC2(C3C1C4C2(C4C3[OH:21])C)C)C 10=20;20,21=21
C[NH:10][C:20]1(OCCCO1)[OH2+:21]>>C[NH+:10]=[C:20]1OCCCO1.[OH2:21] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C(=O)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=C[C:21](=[CH:22]O1)S(=O)(=O)O 10=20;20,21=21,22
[C:20]([NH2:10])([OH2+:21])(O)O>>[C:20](=[NH2+:10])(O)O.[OH2:21] 10=20;20,21=21
CC[N+]1=[C-:10]SC(=C1C)CCO.C1=CC(=CC=C1[CH:20]=[O:21])F.CC[NH+](CC)CC.CCO.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)NC2=CC=CC=C2.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)OC.C(CO)[NH+](CCO)CCO.[Br-]>>CC[N+]1=[C:10](SC(=C1C)CCO)[CH:20](C2=CC=C(C=C2)F)[O-:21].CC[NH+](CC)CC.CCO.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)NC2=CC=CC=C2.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)OC.C(CO)[NH+](CCO)CCO.[Br-] 10=20;20,21=21
CCC(C#N)[C:20](=[N-:10])[O:21][P:22](Cl)(Cl)Cl.Cl>>CCC(C#N)[C:20]#[N:10].[O:21]=[P-:22](Cl)(Cl)Cl.Cl 10=20;20,21=21,22
[Li+:20].C[O-:10].[Li]OC1(CCC=C1CCCC)C.CCCC>>[Li:20][O:10]C.[Li]OC1(CCC=C1CCCC)C.CCCC 10=20,
CC1(CC(C(=O)C=C1)(C)C[CH+]C(C)(O)[Si:20](C)(C)C)C.C1=CC(=CC(=C1)C(=O)[O-:10])Cl>>CC1(CC(C(=O)C=C1)(C)C[CH+]C(C)(O)[Si-:20](C)(C)(C)[O:10]C(=O)C2=CC=CC(=C2)Cl)C 10=20,
C1=CC=C(C=C1)C=C[CH2:20][O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:10].C1CCOC1.C(Br)(Br)Br>>C1=CC=C(C=C1)C=C[CH2:20][Br:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1CCOC1.C(Br)(Br)Br 10=20;20,21=21,22
[H:20][C:21]1(C=CC(=C[CH+:22]1)Cl)C(C(Cl)(Cl)Cl)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC(=C[CH:22]=[C:21]1C(C(Cl)(Cl)Cl)O)Cl 10=20;20,21=21,22
[H:20][OH+:21]C1(CCC(CC1)(C2=NC=C(S2)C)O)OCCO.[OH2:10].C1CCOC1.[Cl-]>>[H:20][OH2+:10].CC1=CN=C(S1)C2(CCC(CC2)([OH:21])OCCO)O.C1CCOC1.[Cl-] 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]OC=C1Br>>C[C:20](=O)[CH:10]1[CH+:11]C(=CO1)Br 10,11=10,20
[H:20][CH:21]1C(=O)CC(C[C:22]1=[O:23])(C)C.CC[N:10](CC)CC.CC(=O)Cl>>[H:20][N+:10](CC)(CC)CC.CC1(C[C:22](=[CH:21]C(=O)C1)[O-:23])C.CC(=O)Cl 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC)C(CCCCCCC(=O)C)OCC.OS(=O)(=O)[O-:10]>>CCOC(CCCCCCC(=O)C)[O:21]CC.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[H:20][C:21]1(C=C([O+:23]=[C:22]1C2=CC=CC=C2)C)C.[OH2:10].CC1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC1=C[C:21](=[C:22]([O:23]1)C2=CC=CC=C2)C.CC1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C[C+:20](C)C.C1=CC=C[CH:10]=[CH:11]1>>C[C:20](C)(C)[CH:10]1C=CC=C[CH+:11]1 10,11=10,20
[H:20][O+:21]=C1C(C(=O)N=C(N1)C)([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-:10].O>>[H:20][O:10]S(=O)(=O)O.CC1=NC(=O)C(C(=[O:21])N1)([N+](=O)[O-])[N+](=O)[O-].O 10=20;20,21=21
[H:20][CH2:21][CH:22](C1=CC=CC=C1)[Br:23].[OH-:10]>>[H:20][OH:10].[CH2:21]=[CH:22]C1=CC=CC=C1.[Br-:23] 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)[S:20](=O)([N+]2=CC=C(C=C2)N(C)C)([O-:10])[Cl:21].CC1(CC(C2(CC3=COC=C3C=C2C1)O)O)C.C1=CC=NC=C1>>CC1=CC=C(C=C1)[S:20](=O)(=[O:10])[N+]2=CC=C(C=C2)N(C)C.[Cl-:21].CC1(CC(C2(CC3=COC=C3C=C2C1)O)O)C.C1=CC=NC=C1 10=20;20,21=21
C[CH:20]=[O:21].C[C:10](=C)[Mg:11]Br>>C[CH:20]([C:10](=C)C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
